US07291632B2
Cyclohexanecarboxylic acid (6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-amide hydrochloride
Prepare according to procedure in Example 69 starting with N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine (Preparation 34, 175 mg, 0.794 mmol), cyclohexanecarbonyl chloride (159 μL, 1.19 mmol), and pyridine (15 mL) to yield 257 mg (88%) of the title compound. Mass spectrum (ion spray): m/z 331.2 (M+1); Analysis Calcd for C19H31N4OCl: C, 62.19; H, 8.51; N, 15.27. Found: C, 61.22; H, 8.44; N, 15.39. mp 250–2° C.

reactant | N-methyl-N-(1-methyl-piperidin-4-yl)-pyridine-2,6-diamine | 0.794 mmol, 175 mg | CN(C1=NC(=CC=C1)N)C1CCN(CC1)C | C12H20N4
reactant | cyclohexanecarbonyl chloride | 1.19 mmol, 159 μL | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | pyridine | 15 mL | N1=CC=CC=C1 | C5H5N
product | Cyclohexanecarboxylic acid (6-(methyl-(1-methyl-piperidin-4-yl)-amino)-pyridin-2-yl)-amide hydrochloride | 257 mg, 88% | Cl.CN(C1=CC=CC(=N1)NC(=O)C1CCCCC1)C1CCN(CC1)C | InChI=1S/C19H30N4O.ClH/c1-22-13-11-16(12-14-22)23(2)18-10-6-9-17(20-18)21-19(24)15-7-4-3-5-8-15;/h6,9-10,15-16H,3-5,7-8,11-14H2,1-2H3,(H,20,21,24);1H
